Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Sulfasalazine / Lisinopril / Codeine
 
Attending: ___.
 
Chief Complaint:
Hypoglycemia
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ female with a history of diabetes brought to ED by 
EMS after being found unresponsive by her son. Patient is now 
living with her son and he stopped by this am to check on her 
before going to work.  He noticed she was drooling and tried to 
arouse her unsuccessfully. Was last seen well yesterday evening 
and it is unclear how long patient was down. The patient reports 
that she woke up this am and felt hypoglycemic, very sweaty and 
dizzy.  Before she could go drink some juice or get help, she 
collapsed back into the bed.  EMS found her to be hypothermic 
and unresponsive with BS 27. Pt alert and responsive to voice 
after D10 enroute to ED. Denies any somatic complaints. 

Patient has recently had loose stools starting around two weeks 
ago but this has since resolved.  She did not have any weight 
loss/abdominal pain/N/V with the loose stools and they were not 
melenic or bloody.  

The patient and her family members note many difficulties with 
the patient's insulin regimen since her last discharge from 
___ for hyperglycemia.  Initially patient was discharged on 
Levemir and this regimen was working well.  She had follow up 
with ___.  The patient then had issues with insurance 
and was switched to Novolog.  Patient and family cannot say what 
exact medications she is on but thinks she takes Humalog 25 
units am and 26 units pm.  She no longer was on SSI for pre meal 
sugars.  The patient says a nurse was coming to her home every 
other day and making sure patient was taking medications 
appropriately.  

In the ED, initial vital signs were 31.7 53 116/43 20 95%. 
Patient was put on ___ hugger and temps improved.  CK 108. 
Serum and urine tox were negative. CXR demonstrated low lung 
volumes without an acute cardiopulmonary process. CBC 
unremarkable. Blood and urine cultures sent. 

Her Vitals improved to: 35.8 66 114/46 16 100%   
 
In the ED, she was put on vanc/cefepime. Head CT demonstrated no 
acute intracranial process. Troponin negative x1. Lytes 
demonstrate Cr up to 1.5. Lactate WNL.  Pt w/ three failed 
attempts at Foley placement.  Urology unable to pass 14 
catheter.  Vagina stenosed but able to void, so no need for 
suprapubic tube at this time. 

On the floor, T: 97.6 BP 134/74 P 76 RR 18 O2 98% RA
BS 265

Review of Systems:  
(+) hyperglycemia post dinner last night, + fecal incontinence 
two weeks ago with loose stools, weight gain (intentional) of 
9lbs 
(-) fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria.  

 
Past Medical History:
DM2, HTN, Hyperlipidemia, Depression, Anxiety, Iron Deficiency 
Anemia, GERD, Chronic Back Pain, Insomnia.
Tongue cancer, sees specialist at ___, chronic anemia (per pt 
she has had since she was a little girl, h/o stomach ulcers 
years ago.

 
Social History:
___
Family History:
She had brother with lung CA, daughter with endometrial cancer
 
Physical Exam:
Exam on Admission:

Physical Exam:  
Vitals- T: 97.6 BP 134/74 P 76 RR 18 O2 98% RA
BS 265 
General: well appearing elderly female in NAD 
HEENT: PERRL, EOMI, MMM, O/P clear
Neck: supple, nontender, no LAD, no JVD
CV: RRR, no m/r/g appreciated  
Lungs: CTAB
Abdomen: + normoactive BS, soft, NTND, no masses
GU: deferred
Ext: good peripheral pulses, warm, well perfused, no edema 
Neuro: A&Ox3, grossly intact, ___ strength all four extremities
Skin: some dry skin on patients ankles bilaterally, no 
lesions/ulcers noted

Exam on Discharge:
OBJECTIVE:
Vitals: T: 98.5 BP 146/69 P 70 RR 18 O2 99% RA
2130 BS 437 
General: well appearing elderly female in NAD, alert, 
responsive, appropriate
HEENT: PERRL, EOMI, MMM, O/P clear
Neck: supple, nontender, no LAD, no JVD
CV: RRR, no m/r/g appreciated  
Lungs: CTAB
Abdomen: + normoactive BS, soft, NTND, no masses
Ext: good peripheral pulses, warm, well perfused, no edema 
Neuro: A&Ox3, grossly intact, ___ strength all four extremities, 
2+ DTRs at patella and brachioradialis bilaterally

 
Pertinent Results:
Labs on Admission:

___ 06:40AM   ___ PTT-28.0 ___
___ 06:40AM   PLT COUNT-256
___ 06:40AM   NEUTS-50.5 ___ MONOS-7.2 EOS-3.4 
BASOS-0.8
___ 06:40AM   WBC-6.7 RBC-4.32# HGB-12.2# HCT-37.6# MCV-87# 
MCH-28.1# MCHC-32.4 RDW-24.9*
___ 06:40AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 06:40AM   cTropnT-<0.01
___ 06:40AM   CK(CPK)-108
___ 06:40AM   GLUCOSE-194* UREA N-33* CREAT-1.5* SODIUM-139 
POTASSIUM-3.5 CHLORIDE-100 TOTAL CO2-27 ANION GAP-16
___ 06:51AM   LACTATE-1.2
___ 06:51AM   ___ TEMP-31.1
___ 09:08AM URINE  RBC-13* WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 09:08AM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-TR 
GLUCOSE-TR KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 09:08AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 09:08AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 09:20PM   TSH-1.6
___ 09:20PM   CALCIUM-9.1 PHOSPHATE-2.8# MAGNESIUM-1.5*
___ 09:20PM   GLUCOSE-361* UREA N-26* CREAT-1.3* SODIUM-135 
POTASSIUM-4.6 CHLORIDE-101 TOTAL CO2-22 ANION GAP-17

Interval Labs:
___ 06:40AM BLOOD Glucose-209* UreaN-20 Creat-1.2* Na-139 
K-4.3 Cl-103 HCO3-27 AnGap-13
___ 08:40AM BLOOD Calcium-9.2 Phos-3.4 Mg-2.0
___ 08:40AM BLOOD WBC-5.4 RBC-4.14* Hgb-11.2* Hct-35.3* 
MCV-85 MCH-27.2 MCHC-31.9 RDW-24.9* Plt ___

Labs on Discharge:
___ 06:50AM BLOOD WBC-8.5# RBC-3.92* Hgb-10.8* Hct-33.2* 
MCV-85 MCH-27.6 MCHC-32.6 RDW-24.8* Plt ___
___ 06:50AM BLOOD Glucose-107* UreaN-24* Creat-1.2* Na-139 
K-4.3 Cl-103 HCO3-25 AnGap-15

Imaging: 
CXR ___: CXR demonstrated low lung volumes without an acute 
cardiopulmonary process. 
CT head non-contrast ___: no acute intracranial process

Microbiology:
blood cultures pending
URINE CULTURE (Preliminary): 
      ENTEROCOCCUS SP..    >100,000 ORGANISMS/ML

 
Brief Hospital Course:
Patient is a ___ female with a history of diabetes 
brought to ED by EMS after being found unresponsive by her son.  
Patient was found to be hypothermic and hypoglycemic by EMS, was 
given D10 on way to ED.  

Active Issues:
#Hypoglycemia: resolved with administration of D10 and then 
further treated with ___ NS in ED.  Patient had one 
additional episode of hypoglycemia while inpatient morning of 
___ to 62 where she was diaphoretic, likely related to 
receiving her insulin too late in the evening.  The patient has 
otherwise been stable on a regimen of insulin ___ 20 units in 
the morning and in the evening.  

#Hypothermia: Likely related to hypoglycemic episode.  Resolved 
in ED with improvement in hypoglycemia and rewarming.  Patient 
remained normothermic on the floor. 

___: Baseline Cr 1.1-1.2, on admission had increased to 1.5.  
Patient received hydration in ED and on the floor, had good PO 
intake and creatinine trended down to 1.2 which is baseline.

#Urethral Stricture:  Urology has seen patient and could not 
place Foley in ED.  PVR was 246.  Patient can currently void 
spontaneously but reports it takes her longer than usual.  
Throughout admission she did not require urinary 
catheterization.  Urology will see her in follow up in clinic.

Chronic Issues:
# HTN: remained on home blood pressure medications while 
inpatient, continue Losartan/HCTZ and Propranolol. 

# Hyperlipidemia: continued on Atorvastatin while inpatient

# Depression and Anxiety: Remained on Paroxetine and Buspirone, 
was euthymic throughout admission. 

# Iron Deficiency Anemia: Stable throughout admission and 
improved since last admission.

# GERD: on Ranitidine, decreased dose to 150mg daily per 
pharmacy recommendations for patient's renal function.

Transitional Issues:
- blood cultures pending
- Follow up ___ at ___ for further management of 
diabetes
- Patient enrolled in ___ program
- will also have ___ assisting in home medication administration
- Follow up to ___ clinic regarding urethral strictures and 
post void residuals
- Follow up to PCP ___ discharge
- Patient new insulin regimen will be 20 units NPH qam and 20 
units Humulin N ___ 20 units at dinner.  She does not usually 
eat a meal until midday and NPH will better suit her glycemic 
needs and hopefully prevent further hypoglycemic episodes.  To 
be further managed on discharge in the ___ clinic. 
 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 20 mg PO DAILY 
2. BusPIRone 10 mg PO TID 
3. Ferrous Sulfate 325 mg PO DAILY 
4. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
5. Hydrochlorothiazide 25 mg PO DAILY 
6. Losartan Potassium 100 mg PO DAILY 
7. Paroxetine 40 mg PO DAILY 
8. Multivitamins W/minerals 1 TAB PO DAILY 
9. Cyanocobalamin 1000 mcg PO DAILY 
10. Amlodipine 10 mg PO DAILY 
11. Hydrocodone-Acetaminophen (5mg-500mg) ___ TAB PO Q6H:PRN 
pain 
12. Propranolol 20 mg PO BID 
13. Docusate Sodium (Liquid) 100 mg PO BID 
You can buy this over the counter if needed. 
14. 70/30 25 Units Dinner
Novolin N 24 Units Breakfast
Insulin SC Sliding Scale using UNK Insulin
15. Albuterol Inhaler 2 PUFF IH HS asthma 
16. calcium carbonate-vitamin D3 *NF* 500 mg(1,250mg) -200 unit 
Oral BID 
17. Ranitidine 300 mg PO DAILY GERD 

 
Discharge Medications:
1. Albuterol Inhaler 2 PUFF IH HS asthma 
2. Amlodipine 10 mg PO DAILY 
3. Atorvastatin 20 mg PO DAILY 
4. BusPIRone 10 mg PO TID 
5. Cyanocobalamin 1000 mcg PO DAILY 
6. Docusate Sodium (Liquid) 100 mg PO BID 
7. Ferrous Sulfate 325 mg PO DAILY 
8. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
9. Hydrochlorothiazide 25 mg PO DAILY 
10. Losartan Potassium 100 mg PO DAILY 
11. calcium carbonate-vitamin D3 *NF* 500 mg(1,250mg) -200 unit 
Oral BID 
12. Paroxetine 40 mg PO DAILY 
13. Ranitidine 150 mg PO DAILY GERD 
RX *ranitidine HCl 150 mg 1 capsule(s) by mouth daily Disp #*30 
Tablet Refills:*0
14. Propranolol 20 mg PO BID 
15. Multivitamins W/minerals 1 TAB PO DAILY 
16. Humalog ___ 20 Units Dinner
NPH 20 Units Breakfast
RX *insulin lispro protam & lispro [Humalog Mix 75-25] 100 
unit/mL (75-25) ___ Units before DINR; Disp #*3 Vial 
Refills:*0
RX *NPH insulin human recomb [Humulin N] 100 unit/mL ___ Units before BKFT; Disp #*3 Vial Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
primary diagnosis: hypoglycemia
secondary diagnosis: Diabetes Mellitus Type II
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you.  

You were admitted to the ___ 
because your blood sugar was very low and you were found 
unresponsive and with a low body temperature. 

You were quickly treated for this in the emergency department 
and the hospital.  We consulted with our colleagues from ___ 
to help manage your diabetes.  We made some changes to your 
diabetic regimen. 

When you leave the hospital, a ___ (visiting nursing associate) 
will visit you in your home to help you take your medications. 
 
Followup Instructions:
___